US08044061B2
To a solution of 3-(3,4-dimethoxyphenyl)propynoic acid (6-amino-1-ethyl-3-prop-2-ynyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)amide (3.2 g, 8.0 mmol) in 15 ml of dry dimethylformamide was added phosphorous pentoxide (6 g). The mixture was stirred at 100° C. for 10 min and subsequently cooled to room temperature. The product was precipitated by adding water (ca. 100 ml), filtered under reduced pressure, washed thoroughly with water and dried at 70° C., yielding light yellow 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-1-prop-2-ynyl-3,7-dihydro-purine-2,6-dione (2.5 g, 82%).

reactant | 3-(3,4-dimethoxyphenyl)propynoic acid (6-amino-1-ethyl-3-prop-2-ynyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)amide | 8.0 mmol, 3.2 g | NC1=C(C(N(C(N1CC)=O)CC#C)=O)NC(C#CC1=CC(=C(C=C1)OC)OC)=O | C20H20N4O5
reactant | phosphorous pentoxide | 6 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 8-(3,4-dimethoxyphenylethynyl)-3-ethyl-1-prop-2-ynyl-3,7-dihydro-purine-2,6-dione | 2.5 g, 82% | COC=1C=C(C=CC1OC)C#CC1=NC=2N(C(N(C(C2N1)=O)CC#C)=O)CC | C20H18N4O4
